US09024019B2
Step D: tert-butyl 4-[acetyl(tert-butoxycarbonyl)amino]-6-(benzyloxymethyl)-3-oxo-5H-1,2,4-triazine-2-carboxylate
To a stirred solution of N-[6-(benzyloxymethyl)-3-oxo-2,5-dihydro-1,2,4-triazin-4-yl]acetamide (20.7 g, 75.0 mmol) in DMF (120 mL) at room temperature was added di-tert-butyl dicarbonate (65.5 g, 300 mmol) in several portions. After completion of the addition, 4-dimethylaminopyridine (0.46 g, 3.8 mmol) was added in one portion and the mixture was stirred for 24 h. The reaction mixture was diluted with water and brine and extracted with EtOAc. The combined organic layers were washed with brine and dried (Na2SO4). Evaporation of the solvent and purification by flash chromatography (30 to 40% EtOAc/heptane) furnished the desired product as a yellow sticky oil. LCMS (Method I) RT 1.98 min. [M+H]+ 477.

reactant | N-[6-(benzyloxymethyl)-3-oxo-2,5-dihydro-1,2,4-triazin-4-yl]acetamide | 75.0 mmol, 20.7 g | C(C1=CC=CC=C1)OCC=1CN(C(NN1)=O)NC(C)=O | C13H16N4O3
reactant | di-tert-butyl dicarbonate | 300 mmol, 65.5 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
solvent | DMF | 120 mL | CN(C)C=O | C3H7NO
catalyst | 4-dimethylaminopyridine | 3.8 mmol, 0.46 g | CN(C1=CC=NC=C1)C | C7H10N2
solvent | water | O | H2O
solvent | brine | [Cl-].[Na+].O
product | tert-butyl 4-[acetyl(tert-butoxycarbonyl)amino]-6-(benzyloxymethyl)-3-oxo-5H-1,2,4-triazine-2-carboxylate | C(C)(=O)N(N1C(N(N=C(C1)COCC1=CC=CC=C1)C(=O)OC(C)(C)C)=O)C(=O)OC(C)(C)C | C23H32N4O7
